US07737166B2
Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)piperidine-4-carboxylate (I-161)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-130) (0.20 g, 0.70 mmol) was dissolved in dichloromethane (10 ml), then ethyl isonipecotate (0.12 ml, 0.78 mmol) and diisopropylethylamine (0.15 ml, 0.88 mmol) were added, followed by heating under reflux for 3 hours. This was diluted with dichloromethane, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=100:1) to obtain a yellow oil (0.27 g, 94%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | ethyl isonipecotate | 0.78 mmol, 0.12 ml | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | diisopropylethylamine | 0.88 mmol, 0.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)piperidine-4-carboxylate | 0.27 g, 94% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CCC(CC2)C(=O)OCC)F)C2=CC=CC=C2)C | C23H22FN3O3
